US08748466B2
Hydrochloric acid (4.0 M in 1,4-dioxane, 0.49 mL, 1.9 mmol, 4.0 equiv) was added to a solution of (2R)-4-[3-(2-fluoro-3-methoxyphenyl)isoxazol-5-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.23 g, 0.49 mmol, 1.0 equiv) in 1,4-dioxane-dichloromethane-water (2:2:1, 5 mL), and the reaction was allowed to stir at room temperature for 2 h. The solvent was removed under reduced pressure, and the resulting crude material was purified by flash chromatography (30 g C18 reverse phase column, 5-60% gradient acetonitrile in water) to provide (2R)-4-[3-(2-fluoro-3-methoxyphenyl)isoxazol-5-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide as a light brown solid (0.09 g, 48%). MS (LCMS) m/z 387.1 (M+1). 1H NMR (400 MHz, METHONAL-d4) δ1.67 (s, 3H) 2.20-2.38 (m, 1H) 2.80 (s, 2H) 2.95-3.09 (m, 1H) 3.10 (s, 3H) 3.94 (s, 3H) 6.68 (d, J=3.12 Hz, 1H) 7.22 (dd, J=5.95, 1.17 Hz, 2H) 7.33-7.51 (m, 1H).

reactant | Hydrochloric acid | 1.9 mmol, 4.0 M, 0.49 mL, 4.0 equiv | Cl | ClH
reactant | (2R)-4-[3-(2-fluoro-3-methoxyphenyl)isoxazol-5-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.49 mmol, 0.23 g, 1.0 equiv | FC1=C(C=CC=C1OC)C1=NOC(=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C21H27FN2O7S
solvent | 1,4-dioxane dichloromethane water | 5 mL | O1CCOCC1.ClCCl.O
product | (2R)-4-[3-(2-fluoro-3-methoxyphenyl)isoxazol-5-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 0.09 g, 48% | FC1=C(C=CC=C1OC)C1=NOC(=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C | C16H19FN2O6S
